// Generated for: spectre
// Generated on: Nov 21 06:29:30 2025
// Design library name: LAB4
// Design cell name: Shunt_bias3
// Design view name: schematic
simulator lang=spectre
global 0
parameters IS=1
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/config.scs" section=default
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/param.scs" section=3s
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/bip.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/cap.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/dio.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/mos.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/photo.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/res.scs" section=tm

// Library name: LAB4
// Cell name: Shunt_bias3
// View name: schematic
M2 (net10 net11 net2 net2) nel w=10u l=1u as=4.8e-12 ad=4.8e-12 \
        ps=2.096e-05 pd=2.096e-05 nrs=0.027 nrd=0.027 m=(8)*(1) \
        par1=(8)*(1) xf_subext=0
M0 (net4 VG net2 net2) nel w=10u l=1u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(8)*(1) par1=(8)*(1) \
        xf_subext=0
M3 (net3 net10 net12 net12) pel w=8u l=250.0n as=2.496e-12 ad=2.16e-12 \
        ps=1.0224e-05 pd=8.54e-06 nrs=0.03375 nrd=0.03375 m=(1)*(10) \
        par1=(1)*(10)
V10 (net14 net12) vsource dc=371.7m type=dc
V9 (net14 net13) vsource dc=900.0m type=dc
V8 (net13 0) vsource dc=300.9m type=dc
V7 (net5 net3) vsource dc=371.7m type=dc
V6 (net6 net11) vsource dc=371.7m type=dc
V5 (net9 net7) vsource dc=300.9m type=dc
V4 (VOUT net7) vsource dc=900.0m type=dc
V3 (net5 net9) vsource dc=900.0m type=dc
V2 (net6 0) vsource dc=371.7m type=dc
V1 (net1 0) vsource dc=900.0m type=dc
V0 (net1 net4) vsource dc=371.7m type=dc
I3 (net3 net12) isource dc=10u type=dc
I2 (net2 net10) isource dc=10u type=dc
I0 (net2 net4) isource dc=10u type=dc
C2 (VG VOUT) capacitor c=30f
C1 (VG 0) capacitor c=2p
C0 (VOUT 0) capacitor c=100f
R2 (0 VG) resistor r=100k
R0 (VG VOUT) resistor r=1M
I7 (0 VG) isource mag=IS type=sine
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
ac ac start=0.01 stop=100M dec=30 annotate=status 
pz ( VOUT ) pz iprobe=I7 freq=1 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
