// Generated for: spectre
// Generated on: Nov 21 12:25:13 2025
// Design library name: LAB4
// Design cell name: Shunt_bias8
// Design view name: schematic
simulator lang=spectre
global 0
parameters IS=1
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/config.scs" section=default
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/param.scs" section=3s
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/bip.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/cap.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/dio.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/mos.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/photo.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/res.scs" section=tm

// Library name: LAB4
// Cell name: Shunt_bias8
// View name: schematic
M2 (net10 net11 net2 net2) nel w=10u l=1u as=4.8e-12 ad=4.8e-12 \
        ps=2.096e-05 pd=2.096e-05 nrs=0.027 nrd=0.027 m=(8)*(1) \
        par1=(8)*(1) xf_subext=0
M0 (net4 net3 net2 net2) nel w=10u l=1u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(8)*(1) par1=(8)*(1) \
        xf_subext=0
M3 (VOUT net10 net4 net4) pel w=8u l=250.0n as=2.496e-12 ad=2.16e-12 \
        ps=1.0224e-05 pd=8.54e-06 nrs=0.03375 nrd=0.03375 m=(1)*(10) \
        par1=(1)*(10)
V2 (net11 0) vsource dc=900m type=dc
V1 (net4 0) vsource dc=1.8 type=dc
I17 (VOUT 0) isource dc=10u type=dc
I10 (net2 0) isource dc=20u type=dc
I20 (net4 net10) isource dc=10u type=dc
C4 (VG net3) capacitor c=1u
C2 (net3 VOUT) capacitor c=30f
C1 (VG 0) capacitor c=2p
C0 (VOUT 0) capacitor c=100f
R2 (0 VG) resistor r=100k
R0 (net3 VOUT) resistor r=1M
I7 (0 VG) isource mag=IS type=sine
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
ac ac start=0.01 stop=100M dec=40 annotate=status 
pz ( VOUT ) pz iprobe=I7 freq=1 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
