// Generated for: spectre
// Generated on: Nov 14 12:22:36 2025
// Design library name: DAY7
// Design cell name: ex1
// Design view name: schematic
simulator lang=spectre
global 0
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/config.scs" section=default
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/param.scs" section=3s
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/bip.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/cap.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/dio.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/mos.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/photo.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/res.scs" section=tm

// Library name: DAY7
// Cell name: ex1
// View name: schematic
M7 (net2 net2 0 0) nel w=10u l=2u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(4)*(1) par1=(4)*(1) \
        xf_subext=0
M6 (net7 net2 0 0) nel w=10u l=2u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(4)*(1) par1=(4)*(1) \
        xf_subext=0
M2 (net1 net2 0 0) nel w=10u l=2u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(2)*(1) par1=(2)*(1) \
        xf_subext=0
M1 (net3 net5 net1 0) nel w=10u l=350.0n as=4.8e-12 ad=4.8e-12 \
        ps=2.096e-05 pd=2.096e-05 nrs=0.027 nrd=0.027 m=(4)*(1) \
        par1=(4)*(1) xf_subext=0
M0 (net9 VIN net1 0) nel w=10u l=350.0n as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(4)*(1) par1=(4)*(1) \
        xf_subext=0
M5 (net7 net9 net4 net4) pel w=10u l=500n as=4.8e-12 ad=4.8e-12 \
        ps=2.096e-05 pd=2.096e-05 nrs=0.027 nrd=0.027 m=(1)*(1) \
        par1=(1)*(1)
M4 (net9 net3 net4 net4) pel w=10u l=2u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(8)*(1) par1=(8)*(1)
M3 (net3 net3 net4 net4) pel w=10u l=2u as=4.8e-12 ad=4.8e-12 ps=2.096e-05 \
        pd=2.096e-05 nrs=0.027 nrd=0.027 m=(8)*(1) par1=(8)*(1)
R2 (net13 net6) resistor r=80k
R3 (VOUT net5) resistor r=180k
R4 (net5 net8) resistor r=20k
V1 (net10 0) vsource dc=900m type=dc
V0 (net4 0) vsource dc=1.8 type=dc
I4 (net4 net2) isource dc=20u type=dc
V2 (VIN net11) vsource mag=1 type=sine
C6 (VOUT 0) capacitor c=1p
C4 (net8 0) capacitor c=1u
C3 (net6 net7) capacitor c=150f
C5 (net12 net5) capacitor c=100f
V3 (net11 net10) vsource type=pulse val0=0 val1=10m period=1 delay=10u \
        rise=1n fall=1n width=500.0m
IPRB0 (net7 VOUT) iprobe
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
ac ac start=0.01 stop=100G dec=20 annotate=status 
pz ( VOUT ) pz iprobe=V2 freq=1 
tran tran stop=100u errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
stb stb start=0.01 stop=100G dec=20 probe=IPRB0 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
